US04478842
A solution of 3-methyl-2-(3-pyridyl)indole (2.08 g) in 12 ml of DMF is added to a suspension of 0.528 g of 50% sodium hydride (dispersion in mineral oil) in 6 ml of DMF under nitrogen at 10°-15°. After complete addition the mixture is stirred at room temperature for 0.5 hour and is treated with a solution of 2.39 g of ethyl 3-(p-chloromethylphenyl)-2-methylacrylate in 5 ml of DMF dropwise. The resulting mixture is stirred at room temperature overnight and poured in 100 ml of water. The resulting mixture is extracted with ethyl acetate (2×50 ml) and the organic layer is washed with 100 ml of brine, dried over magnesium sulfate and evaporated to yield 1-[p-(2-ethoxycarbonylpropen-1-yl)benzyl]-3-methyl-2-(3-pyridyl)indole.

reactant | 3-methyl-2-(3-pyridyl)indole | 2.08 g | CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C14H12N2
reactant | sodium hydride | 0.528 g | [H-].[Na+]
reactant | ethyl 3-(p-chloromethylphenyl)-2-methylacrylate | 2.39 g | ClCC1=CC=C(C=C1)C=C(C(=O)OCC)C | C13H15ClO2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-[p-(2-ethoxycarbonylpropen-1-yl)benzyl]-3-methyl-2-(3-pyridyl)indole | C(C)OC(=O)C(=CC1=CC=C(CN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1)C | C27H26N2O2
